US07135467B2
5-Benzyloxy-2-(4-hydroxypiperidine-1-yl)-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylic acid ethyl ester
A solution of 5-Benzyloxy-2-methanesulfonyl-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester (0.725 g, 2 mmol) and 4-hydroxypiperidine (1 g, 10 mmol) in THF (20 mL) was stirred for 16 h at ambient temperature. Then, the reaction mixture was taken up in EtOAC (100 mL), washed with 1N aq HCl (2×10 mL) and brine (10 mL). The organic phase was dried (Na2SO4), filtered and concentrated to give the desired product as a pale yellow paste (0.608 g, 79%) which was used in the subsequent reaction without further purification. 1H NMR (500 MHz, CDCl3) δ: 7.46 (d, J=7.0 Hz, 2H), 7.36–7.28 (m, 3H), 5.14 (s, 2H), 4.30 (q, J=7.0 Hz, 2H), 3.92–3.87 (m, 1H), 3.50 (s, 3H), 3.44–3.39 (m, 2H), 3.01–2.95 (m, 2H), 2.79 (br s, 1H), 2.02–1.98 (m, 2H), 1.71–1.64 (m, 2H), 1.28 (t, J=7.0 Hz, 3H). LRMS (M+H) calcd for C20H26N3O5: 388.44. found: 388.20

reactant | 5-Benzyloxy-2-methanesulfonyl-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 2 mmol, 0.725 g | C(C)OC(=O)C=1N=C(N(C(C1OCC1=CC=CC=C1)=O)C)S(=O)(=O)C | C16H18N2O6S
reactant | 4-hydroxypiperidine | 10 mmol, 1 g | OC1CCNCC1 | C5H11NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-Benzyloxy-2-(4-hydroxypiperidine-1-yl)-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(N(C(C1OCC1=CC=CC=C1)=O)C)N1CCC(CC1)O | C20H25N3O5
